US06713499B2
N-{7-[Acetyl-(2-methoxy-ethyl)-amino]-4-methoxy-benzothiazol-2-yl}-2-bromo-isonicotinamide
From 4-methoxy-N7-(2-methoxy-ethyl)-benzothiazole-2,7-diamine with pyridine and acetyl chloride in dichloromethane and THF, then treatment with 2-bromo-isonicotinic acid, HATU and N-methylmopholine in THF. ES-MS m/e (%): 481 (M{81Br}+H+, 100), 479 (M{79Br}+H+, 99).

reactant | 4-methoxy-N7-(2-methoxy-ethyl)-benzothiazole-2,7-diamine | COC1=CC=C(C2=C1N=C(S2)N)NCCOC | C11H15N3O2S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 2-bromo-isonicotinic acid | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmopholine | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-{7-[Acetyl-(2-methoxy-ethyl)-amino]-4-methoxy-benzothiazol-2-yl}-2-bromo-isonicotinamide | C(C)(=O)N(C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)Br)=O)OC)CCOC | C19H19BrN4O4S
